Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Intraabdominal Fluid Collections

 
Major Surgical or Invasive Procedure:
Percutaneous drain placement in right flank.

 
History of Present Illness:
___ with hx Crohn's disease refractory to medical management now 
s/p Total Colectomy ___ transferred from ___ with 
CT findings concerning for intraabdominal fluid collection and 
phlegmonous changes.  

Pt reports 1.5 weeks intermittent fevers, chills, intermittent 
nonbloody, nonbilious small volume emesis initially associated 
with mild epigastric and periumbilical crampy pain which was 
self-limited. Pt also seen by PCP for concurrent URI symptoms 
and completed 5 day course of Azithromycin with no change in 
abdominal symptoms. Pt presented to ___ with temperature
of 103.7F measured at home but refused to be admitted. Pt was 
last seen at his scheduled follow-up appointment with Dr. ___ 
___, the morning following his ___ presentation at ___ 
___ at which point he again refused hospital admission. Pt 
returned to ___ and was voluntarily admitted for 
management and workup.

Pt underwent CT torso with findings suggestive of subhepatic 
phlegmonous changes and multiple pelvic fluid collections with 
largest measuring 8cm x 3.6cm.  Pt was afebrile during that 
admission though labs were notable for a leukocytosis of 12,700 
with negative blood cultures at one day. Since pt's GI and 
surgical care were both at ___, pt agreed to be transferred 
here for further management and work-up.

 
Past Medical History:
Refractory Crohn's Disease - including solumedrol,
cyclosporine, infliximab, and bowel rest with TPN, GERD,
Diverticulosis, Nephrolithiasis, (+) PPD on INH, Depression, CMV
 
Social History:
___
Family History:
No history of GI disorders. Father: DM, CAD/CABG; Mother: 
Healthy 

 
Physical ___:
VITALS:  T 99.9   HR 80-110s  BP 105/69   RR 16  O2sat 98% RA
HEENT: Normocephalic, atraumatic. EOMI. PERRL. Nares clear. 
Mucous membranes moist. Neck supple without lymphadenopathy. 
___: Regular rate and rhythm, without murmurs, rubs or gallops. 
S1 and S2.
RESP: Clear to auscultation bilaterally without adventitious 
sounds. No wheezing, rhonchi or crackles.
ABD: soft, obese, well healing midline scar, inferior aspect 2 
cm defect with pink granulation tissue, minimal fibrinous 
exudate
EXTR: 2+ peripheral pulses, without cyanosis, clubbing or edema. 


 
Pertinent Results:
___ 06:05AM BLOOD WBC-10.7 RBC-3.46* Hgb-9.1* Hct-29.7* 
MCV-86 MCH-26.4* MCHC-30.8* RDW-17.6* Plt ___

___ 12:30AM BLOOD ___ PTT-25.9 ___

___ 06:05AM BLOOD Glucose-107* UreaN-7 Creat-1.1 Na-140 
K-4.2 Cl-104 HCO3-26 AnGap-14

___ 06:05AM BLOOD Calcium-9.2 Phos-4.8* Mg-1.9

DRAINAGE HEMATOMA/FLUID; CT GUIDANCE DRAINAGE ___: 
Successful placement of 8 ___ pigtail catheter in a right 
lower quadrant collection. The catheter should be routinely 
flushed as per the post-procedure recommendations, to ensure 
adequate drainage. Sample of 
fluid sent for microbiology analysis. Short interval follow up 
with CT will likely be required to assess response to the 
current catheter placement and to determine if separate 
approaches to additional loculations will ultimately be 
necessary. 

CT FISTULOGRAM S&I ___: Appropriate positioning of a drain 
with collapsed primary loculation in the right lower quadrant 
with small residual loculations at sites described above. 
Abscessogram showing intercommunication among all loculations of 
the collection as well as free passaged into the rectal pouch. 
Thickening of the visualized pouch concerning for ongoing 
inflammation. 

  

 
Brief Hospital Course:
NEURO/PAIN: The patient was maintained on PO pain medication 
including Oxycodone/Tylenol on admission without issue. The 
patient remained neurologically intact and without change from 
baseline. The patient remained alert and oriented to person, 
location and place. His home Fluoxetine was continued.

CARDIOVASCULAR: The patient remained hemodynamically stable upon 
admission, although he was notably experiencing sinus 
tachycardia intermittently throughout his stay. This was 
attributed to his fevers and intra-abdominal fluid collections. 
This resolved with antibiotics, hydration and conservative 
management. Vitals signs were closely monitored throughout his 
stay.

RESPIRATORY: The patient had no episodes of desaturation or 
pulmonary concerns. The patient denied cough or respiratory 
symptoms. Pulse oximetry was monitored closely and the patient 
maintained adequate oxygenations.  

GASTROINTESTINAL: The patient had a diagnosis of 
medically-refractory Crohn's disease
and was status-post total abdominal colectomy with end ileostomy 
presented with intermittent fevers, and CT abdomen/pelvis at an 
outside hospital showed findings concerning for intra-abdominal 
abscesses. Upon transfer to ___, on ___, the patient 
underwent CT-guided drainage with ___ resulting in successful 
placement of 8 ___ pigtail catheter in a right lower quadrant 
collection. The catheter was routinely flushed as per the 
post-procedure recommendations, to ensure adequate drainage. 
Sample of fluid was sent for microbiology analysis. The patient 
was treated with antibiotics in-hospital and upon discharge. The 
patient was initially NPO on maintenance IV fluids for the 
procedure, but was otherwise tolerating a regular diet without 
issue. He did have some high ostomy output on ___ which 
resolved with Loperamide. He was also started on Prednisone PO 
on admission and steroids were continued upon discharge. A 
fistulogram on ___ confirmed appropriate positioning of the 
drain with collapsed primary loculation in the right lower 
quadrant with small residual loculations at other sites. 
Abscessogram showing intercommunication among all loculations of 
the  collection as well as free passaged into the rectal pouch. 
Thickening of the visualized pouch concerning for ongoing 
inflammation was noted. The patient was to continue regular 
diet, steroids, and complete antibiotics upon discharge.

GENITOURINARY: The patient's urine output was closely monitored. 
A Foley catheter was not required, the patient voided without 
issue. The patient's intake and output was closely monitored for 
> 30 mL per hour output. The patient's creatinine was 0.9. 

HEME: The patient's hematocrit remained stable during his 
admission. The patient remained hemodynamically stable and did 
not require transfusion. The patient's coagulation profile 
remained normal. The patient had no evidence of bleeding.

ID: The patient's initial abscess culture gram stain was 
significant for gram positive cocci and thus IV Vancomycin and 
Zosyn (which had been initiated on admission) were continued. 
This was transitioned to PO Augmentin was by ___. His 
fevers, which had been noted on admission, had resolved with 
antibiotic treatment. The patient was transitioned to IV 
Ceftriaxone on HOD#7 when speciation of his abscess cultures 
revealed Streptococcus anginosus x 2 morphologies. ID 
recommended the IV antibiotics and a PICC line was placed for 
planned completion of a 4-week course at home with nursing 
services. Infectious disease was consulted on ___ for 
assistance with antibiotic management and agreed with the 
discharge regimen.

ENDOCRINE: The patient's blood glucose was closely monitored. 
Blood glucose levels greater than 120 mg/dL were addressed with 
an insulin sliding scale.

PROPHYLAXIS: The patient was maintained on heparin 5000 units SQ 
TID for DVT/PE prophylaxis and encouraged to ambulate. The 
patient also had sequential compression boot devices in place 
during immobilization to promote circulation. The patient was 
encouraged to utilize incentive spirometry, ambulate early and 
was discharged in stable condition.

 
Medications on Admission:
Prednisone 5 (current taper to off), Valganciclovir 900, 
Fluoxetine 40, Omeprazole 20, Simvastatin 20 

 
Discharge Medications:
1. azathioprine 100 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. valganciclovir 450 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for headache or pain: Do not take more than 
4000mg of tylenol daily, do not drive a car while taking 
tylenol.  
6. oxycodone 5 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain for 5 days: Do not drive a car or drink 
alcohol while taking this medication.
Disp:*30 Tablet(s)* Refills:*0*
7. loperamide 2 mg Capsule Sig: One (1) Capsule PO QID (4 times 
a day).
Disp:*60 Capsule(s)* Refills:*2*
8. prednisone 2.5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
for 4 days: Please take 2.5mg of prednisone for 4 more days. 
Last dose ___.
Disp:*4 Tablet(s)* Refills:*0*
9. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
10. ceftriaxone 2 gram Recon Soln Sig: One (1) dose Intravenous 
every ___ hours for 4 weeks: last day of therapy 
___.
Disp:*26 * Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Abdominal Fluid Collections connecting with rectal area. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with fevers and you were found 
to have fluid collections in your abdomen which were likely the 
cause of these fevers. The fluid collections were related to the 
area in the abdomen of your surgery in ___. The fluid 
collections were drained and sent to the microbiology lab and 
the fluid was found to contain bacteria and you were treated 
with antibiotics through your IV. You had a sinogram and this 
showed that the collections were connected with your rectal 
area. You will be discharged home with the drain in place and 
you should flush this as instructed by the nurses with 10cc of 
sterile normal saline and draw back until the aspirate is clear, 
this flushing is really just to keep the drain clear. Please 
care for the drain site as instructed by the ___ nurses. ___ is 
important to monitor the appearance of the skin around where the 
catheter is inserted into the skin for signs of infection 
including: incresed redness, increased pain, increased warmth at 
the site, or drainage of yellow/green/white/foul smelling 
drianage. Please call the office for advice or go to the 
emergency room if the symptoms are severe. The drain will remain 
in place and you will take antibiotic pills by mouth twice dialy 
for 2 weeks. In 2 weeks you will have another sinogram to 
evaluate the collections. At this time you will see Dr. ___ 
___ a plan will be made. You should also see Dr. ___ in 
follow-up after these 2 weeks to be evaluated for your crohns 
disease. You will continue taking 2.5mg of Prednisone until 
___ and then stop the prednisone.

Please montior your ileostomy output. You must measure your 
ileostomy output for the next few weeks. The output from the 
stoma should not be more than 1200cc or less than 500cc. If you 
find that your output has become too much or too little, please 
call the office for advice. The office nurse or nurse 
practitioner can recommend medications to increase or slow the 
ileostomy output. Keep yourself well hydrated, if you notice 
your ileostomy output increasing, take in more electrolyte drink 
such as gatoraide. Please monitor yourself for signs and 
symptoms of dehydration including: dizziness (especially upon 
standing), weakness, dry mouth, headache, or fatigue. If you 
notice these symptoms please call the office or return to the 
emergency room for evaluation if these symptoms are severe. You 
may eat a mosified regular diet with your new ileostomy. However 
it is a good idea to avoid spicy foods.

Please monitor yourself for the following abdominal symptoms and 
call the office if you notice any of the following or go to the 
emergency room if the symptoms are severe: nausea, vomiting, 
increased abdominal pain, increased abdominal distension, blood 
in your stool, or other concerning symptoms. If you notice that 
the discharge from your rectum has changed significantly in 
color has increased in amount please call the office or go to 
the emergency room if the symptoms are severe. Please call the 
office or go to the emergency room if you develop a fever.

 
Followup Instructions:
___